US06822069B2
(1) Synthesis of 2,3-diphenyl-5-nitroquinoxaline
1.53 g (10 mmol) of 2,3-diaminonitrobenzene and 2.00 g (9.6 mmol) of benzil were placed in a four-necked flask, and were dissolved by adding a 1:1 mixed solvent of acetic acid/methanol thereto. Thereafter, reaction was allowed at 70° C. for 2 hr. After the reaction, the solvent was removed, and the reaction product was extracted on a silica gel column (ethyl acetate:hexane=1:1).

reactant | 2,3-diaminonitrobenzene | 10 mmol, 1.53 g | NC1=C(C=CC=C1N)[N+](=O)[O-] | C6H7N3O2
reactant | benzil | 9.6 mmol, 2.00 g | C1(=CC=CC=C1)C(=O)C(=O)C1=CC=CC=C1 | C14H10O2
solvent | acetic acid methanol | C(C)(=O)O.CO
product | 2,3-diphenyl-5-nitroquinoxaline | C1(=CC=CC=C1)C1=NC2=CC=CC(=C2N=C1C1=CC=CC=C1)[N+](=O)[O-] | C20H13N3O2
